US05807880
1-[1-(9H-Fluoren-2-yl)ethyl]-1H-imidazole (8.88 g) was dissolved in ethyl acetate, and 15 ml of 4N hydrogen chloride-ethyl acetate was added to this solution under ice-cooling. The thus precipitated crystals were collected by filtration and washed with ethyl acetate to obtain 9.95 g of 1-[1-(9H-fluoren-2-yl)ethyl]-1H-imidazole hydrochloride.

reactant | 1-[1-(9H-Fluoren-2-yl)ethyl]-1H-imidazole | 8.88 g | C1=C(C=CC=2C3=CC=CC=C3CC12)C(C)N1C=NC=C1 | C18H16N2
reactant | hydrogen chloride-ethyl acetate | 4N, 15 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[1-(9H-fluoren-2-yl)ethyl]-1H-imidazole hydrochloride | 9.95 g | Cl.C1=C(C=CC=2C3=CC=CC=C3CC12)C(C)N1C=NC=C1 | InChI=1S/C18H16N2.ClH/c1-13(20-9-8-19-12-20)14-6-7-18-16(10-14)11-15-4-2-3-5-17(15)18;/h2-10,12-13H,11H2,1H3;1H
